US05914405
Step 2: Preparation of O-(p-Toluenesulfonyl)-3-(4-Fluorophenoxy)propanol
3-(4-Fluorophenoxy)propanol (7.55 g, 44 mmol) was stirred in 50 mL of pyridine under a nitrogen atmosphere at 5° C. p-Toluenesulfonyl chloride (9.2 g, 50 mmol) was added in one portion and the resulting solution was allowed to stir at 5° C. for 1 hour and then was placed in a refrigerator set at 5° C. overnight. The reaction was then poured into about 300 mL of ice water. This mixture was extracted three times with diethyl ether. The combined extracts were washed 2 times with cold 1N hydrochloric acid and once with cold water. The extracts were then dried over sodium sulfate/potassium carbonate, filtered, and concentrated to give 13.24 g of a solid product. Yield: 93%.

reactant | 3-(4-Fluorophenoxy)propanol | 44 mmol, 7.55 g | FC1=CC=C(OCCCO)C=C1 | C9H11FO2
reactant | p-Toluenesulfonyl chloride | 50 mmol, 9.2 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | O-(p-Toluenesulfonyl)-3-(4-Fluorophenoxy)propanol | 13.24 g, Yield: 93% | C1(=CC=C(C=C1)S(=O)(=O)OCCCOC1=CC=C(C=C1)F)C | C16H17FO4S
